US08802659B2
(6-((trans)-4-tert-butylcyclohexyloxy)naphthalen-2-yl)methanamine
Compound 6-((trans)-4-tert-butylcyclohexyloxy)-2-naphthonitrile (1.7 g, 5.53 mmol, 1.0 eq.) and NH4OH (0.3 mL, 6.65 mmol, 1.2 eq.) was dissolved in MeOH (5 mL). Then Raney Ni (64 mg, 1.11 mmol, 0.2 eq.) was added to the mixture and the suspension solution was stirred at r.t. under hydrogen atmosphere for 15 h. The mixture was filtrated and purified by silica gel column chromatography using DCM/MeOH (10/1) as eluent to give product as a pale solid (1.76 g, 63%). ESI-MS (M-NH2)+: 295.1. 1H NMR (400 MHz, CDCl3) δ 7.71-7.65 (m, 3H), 7.38 (dd, 1H), 7.15-7.11 (m, 2H), 4.28-4.24 (m, 1H), 3.98 (s, 2H), 2.30-2.26 (m, 2H), 1.91-1.87 (m, 2H), 1.76 (s, 2H), 1.46-1.40 (m, 2H), 1.21-1.12 (m, 3H), 0.90 (s, 9H).

reactant | 6-((trans)-4-tert-butylcyclohexyloxy)-2-naphthonitrile | 5.53 mmol, 1.7 g, 1.0 eq. | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC=1C=C2C=CC(=CC2=CC1)C#N | C21H25NO
reactant | NH4OH | 6.65 mmol, 0.3 mL, 1.2 eq. | [NH4+].[OH-]
solvent | MeOH | 5 mL | CO | CH4O
catalyst | Ni | 1.11 mmol, 64 mg, 0.2 eq. | [Ni] | Ni
product | (6-((trans)-4-tert-butylcyclohexyloxy)naphthalen-2-yl)methanamine | 1.76 g, 63% | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC=1C=C2C=CC(=CC2=CC1)CN | C21H29NO
